US08735384B2
A mixture of (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone (0.115 g, 0.429 mmol), (R)—N-(4-methoxybenzyl)-3-(3-methylmorpholino)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine (0.07 g, 0.143 mmol), potassium phosphate, anhydrous (0.121 g, 0.572 mmol), 2-(dicyclohexylphosphino)-2′,4′,6′,-tri-1-propyl-1,1′-biphenyl (0.014 g, 0.029 mmol), and Pd2(dba)3 (0.013 g, 0.014 mmol) was purged with N2 followed by the addition of degassed dioxane (1 mL) and degassed water (0.5 mL). The resulting mixture was heated in microwave at 140° C. for 12 min. The reaction went to completion and it was filtered, concentrated, and chromatographed on silica gel using 0-5% MeOH/DCM to afford a yellow oil. To the product was added TFA (10 mL, 130 mmol) and the solution was heated at 60° C. for 18 h until the starting material was consumed. The mixture was concentrated and chromatographed on silica gel using 0-5% 2 M NH3 in MeOH/DCM to afford a yellow solid as (R)-(2-(2-amino-3-(3-methylmorpholino)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone. MS (ESI, pos. ion) m/z: 431 (M+1).

reactant | (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone | 0.429 mmol, 0.115 g | BrC1=C(C=CC=C1C)C(=O)N1CCCC1 | C12H14BrNO
reactant | (R)—N-(4-methoxybenzyl)-3-(3-methylmorpholino)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | 0.143 mmol, 0.07 g | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2N2[C@@H](COCC2)C)B2OC(C(O2)(C)C)(C)C)C=C1 | C28H36BN3O4
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′,-tri-1-propyl-1,1′-biphenyl | 0.029 mmol, 0.014 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C1CCCCC1 | C33H49P
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd2(dba)3 | 0.014 mmol, 0.013 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-(2-(2-amino-3-(3-methylmorpholino)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | NC1=NC2=CC=C(C=C2C=C1N1[C@@H](COCC1)C)C1=C(C=CC=C1C)C(=O)N1CCCC1 | C26H30N4O2
